US04084001
A mixture of 5-aminopentan-1-ol (20 g.) and N-cyano-N',S-dimethylisothiourea (25 g.) in pyridine (130 ml) was heated on a steam-bath for 14 hours, evaporated to dryness, and the residue recrystallised from chloroform/methanol to give N-cyano-N'-(5-hydroxypentyl)-N"-methylguanidine (15.7 g). A recrystallised sample had m.p. 116°-119°.

reactant | 5-aminopentan-1-ol | 20 g | NCCCCCO | C5H13NO
reactant | N-cyano-N',S-dimethylisothiourea | 25 g | C(#N)NC(SC)=NC | C4H7N3S
solvent | pyridine | 130 ml | N1=CC=CC=C1 | C5H5N
product | N-cyano-N'-(5-hydroxypentyl)-N"-methylguanidine | 15.7 g | C(#N)NC(=NC)NCCCCCO | C8H16N4O
